US06387919B1
2-Oxo-3-[(4-sulfamoyl-phenyl)-hydrazono]-2,3-dihydro-1H-indole-5-carboxylic acid (3-hydroxy-2,2-dimethylpropyl)-amide (Z-isomer)
The title compound was prepared from 2-oxo-3[(4-sulfamoyl-phenyl)-hydrazono]-2,3-dihydro-1H-indole-5-carboxylic acid pentafluorophenyl ester and 3-hydroxy-2,2-dimethylpropylamine according to Procedure K: mp>230° C.; Anal. Calcd for C20H23N5O5S: C, 53.92; H, 5.20; N, 15.72. Found: C, 54.04; H, 5.17; N, 15.77.

reactant | 2-oxo-3[(4-sulfamoyl-phenyl)-hydrazono]-2,3-dihydro-1H-indole-5-carboxylic acid pentafluorophenyl ester | FC1=C(C(=C(C(=C1OC(=O)C=1C=C2C(C(NC2=CC1)=O)=NNC1=CC=C(C=C1)S(N)(=O)=O)F)F)F)F | C21H11F5N4O5S
reactant | 3-hydroxy-2,2-dimethylpropylamine | OCC(CN)(C)C | C5H13NO
product | 2-Oxo-3-[(4-sulfamoyl-phenyl)-hydrazono]-2,3-dihydro-1H-indole-5-carboxylic acid (3-hydroxy-2,2-dimethylpropyl)-amide | OCC(CNC(=O)C=1C=C2C(C(NC2=CC1)=O)=NNC1=CC=C(C=C1)S(N)(=O)=O)(C)C | C20H23N5O5S
